US05364866
A mixture of N-(3-chloropropyl)-2-benzoxazolinone (8.5 g, 0.04 mol), polyphosphoric acid (100 g), and acetic acid (2.4 g, 2.3 ml, 0.04 mol), was stirred and heated at 100° C. for 2 hours. The hot solution was poured into ice-water to deposit a yellow gum. The mixture was extracted with dichloromethane, and insolubles were filtered. The dichloromethane extract was washed with water, dried (K2CO3), and concentrated to afford 6.4 g of a slightly green solid. This was recrystallized from ethanol (95%) to yield N-(3-chloropropyl)-6-acetyl-2-benzoxazolinone as a brown solid, 3.5 g, m.p.=100°-103° C.

reactant | N-(3-chloropropyl)-2-benzoxazolinone | 0.04 mol, 8.5 g | ClCCCN1C(OC2=C1C=CC=C2)=O | C10H10ClNO2
reactant | acetic acid | 0.04 mol, 2.3 ml, 2.4 g | C(C)(=O)O | C2H4O2
product | N-(3-chloropropyl)-6-acetyl-2-benzoxazolinone | ClCCCN1C(OC2=C1C=CC(=C2)C(C)=O)=O | C12H12ClNO3
